US04207234
2-[3-{4-(3-tert-Butoxycarbonylamino-3-carboxypropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-[4-{N-(2,2,2-trichloroacetyl)carbamoyloxy}phenyl]acetic acid (550 mg.) was suspended in water (5 ml.), and to the suspension there were added sodium bicarbonate (250 mg.) and methanol (1 ml.). The mixture was stirred at ambient temperature for 7 hours. The reaction mixture was adjusted to pH 2 with dilute hydrochloric acid and the precipitating material was collected by filtration. The material was washed with water and then dried to give 2-[3-{4-(3-tert-butoxycarbonylamino-3-carboxypropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-(4-carbamoyloxyphenyl)acetic acid.

reactant | 2-[3-{4-(3-tert-Butoxycarbonylamino-3-carboxypropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-[4-{N-(2,2,2-trichloroacetyl)carbamoyloxy}phenyl]acetic acid | 550 mg | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C(=O)O)C1=CC=C(C=C1)OC(NC(C(Cl)(Cl)Cl)=O)=O)=O)C(C=O)=O)C(=O)O | C31H31Cl3N4O13
reactant | sodium bicarbonate | 250 mg | C([O-])(O)=O.[Na+]
reactant | methanol | 1 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-[3-{4-(3-tert-butoxycarbonylamino-3-carboxypropoxy)phenylglyoxyloylamino}-2-oxo-1-azetidinyl]-2-(4-carbamoyloxyphenyl)acetic acid | C(C)(C)(C)OC(=O)NC(CCOC1=CC=C(C=C1)N(C1C(N(C1)C(C(=O)O)C1=CC=C(C=C1)OC(N)=O)=O)C(C=O)=O)C(=O)O | C29H32N4O12
